US06762320B2
a) 3-(3-Fluoro-benzyloxy)-phenol
Prepared in analogy to example 8 from resorcinol and 3-fluoro-benzylbromide. Colorless oil. Yield=7%. MS: m/e=218.1 (M+).

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 3-fluoro-benzylbromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | 3-(3-Fluoro-benzyloxy)-phenol | Yield=7% | FC=1C=C(COC=2C=C(C=CC2)O)C=CC1 | C13H11FO2
